### PR TITLE
[Merged by Bors] - feat: port Topology.UniformSpace.Separation

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Separation.lean [hunk 1]
```diff
@@ -0,0 +1,442 @@
...
+from `X` to a separated uniform space uniquely factors through `SeparationQuotient X`.
+As usual, this allows to turn `SeparationQuotient` into a functor (but we don't use the
+category theory library in this file).
+
+These notions admit relative versions, one can ask that `s : Set X` is separated, this
+is equivalent to asking that the uniform structure induced on `s` is separated.
+
+## Main definitions
+
+* `separation_relation X : Set (X × X)`: the separation relation
```
Comment (jcommelin) [inline Mathlib/Topology/UniformSpace/Separation.lean:41]:
```suggestion
* `separationRel X : Set (X × X)`: the separation relation
```

File: Mathlib/Topology/UniformSpace/Separation.lean [hunk 2]
```diff
@@ -0,0 +1,442 @@
...
+    isClosed_iff_clusterPt.1 hVc _ <| h.mono <| le_principal_iff.2 hV
+#align eq_of_cluster_pt_uniformity eq_of_clusterPt_uniformity
+
+theorem idRel_sub_separation_relation (α : Type _) [UniformSpace α] : idRel ⊆ 𝓢 α := by
+  unfold separationRel
+  rw [idRel_subset]
+  intro x
+  suffices ∀ t ∈ 𝓤 α, (x, x) ∈ t by simpa only [refl_mem_uniformity]
+  exact fun t => refl_mem_uniformity
+#align id_rel_sub_separation_relation idRel_sub_separation_relation
```
Comment (jcommelin) [inline Mathlib/Topology/UniformSpace/Separation.lean:175]:
```suggestion
theorem idRel_sub_separationRel (α : Type _) [UniformSpace α] : idRel ⊆ 𝓢 α := by
  unfold separationRel
  rw [idRel_subset]
  intro x
  suffices ∀ t ∈ 𝓤 α, (x, x) ∈ t by simpa only [refl_mem_uniformity]
  exact fun t => refl_mem_uniformity
#align id_rel_sub_separation_relation idRel_sub_separationRel
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
